US08168794B2
To a solution of cis(+/−)-1-(benzyloxycarbonyl)-5-(tert-butoxycarbonylamino)piperidine-3-carboxylic acid (1.0 eq), methanol (20 eq.) and EDC (1.3 eq) in dichloromethane at a concentration of 0.25 M at 0° C. was added dimethylaminopyridine (0.1 eq). After stirring for 48 hours as the reaction was allowed to warm to rt the volatiles were removed in vacuo. Upon addition of ethyl acetate and washing with H2O (3×), 1N HCl, NaHCO3(sat.) and brine, the solution was dried over MgSO4, filtered, concentrated and purified by column chromatography (25% ethyl acetate/hexanes) to yield cis(+/−)-1-benzyl 3-methyl 5-(tert-butoxycarbonylamino)-piperidine-1,3-dicarboxylate. LCMS (m/z): 293.1 (MH-Boc+); LC Rt=4.09 min

reactant | cis(+/−)-1-(benzyloxycarbonyl)-5-(tert-butoxycarbonylamino)piperidine-3-carboxylic acid | 1.0 eq | C(C1=CC=CC=C1)OC(=O)N1C[C@H](C[C@H](C1)NC(=O)OC(C)(C)C)C(=O)O | C19H26N2O6
reactant | methanol | 20 eq. | CO | CH4O
reactant | EDC | 1.3 eq
reactant | dimethylaminopyridine | 0.1 eq | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | cis(+/−)-1-benzyl 3-methyl 5-(tert-butoxycarbonylamino)-piperidine-1,3-dicarboxylate | C(C)(C)(C)OC(=O)N[C@@H]1C[C@@H](CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C20H28N2O6
